US07199124B2
N-[4-(3-methylphenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]acetamide
To a solution of [4-(3-methylphenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]amine (0.50 g, 1.8 mmol) and 4-dimethylaminopyridine (0.065 g, 0.53 mmol) in N,N-dimethylacetamide (10 mL) was added acetylchloride (0.19 mL, 2.7 mmol), and the mixture was stirred at 80° C. for 14 hrs. Into the reaction mixture was poured aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated. The resulting crystals were recrystallized from ethyl acetate to give the title compound (0.35 g, yield 61%).

reactant | [4-(3-methylphenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]amine | 1.8 mmol, 0.50 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)C)N | C15H14N4S
reactant | acetylchloride | 2.7 mmol, 0.19 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.53 mmol, 0.065 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-(3-methylphenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]acetamide | 0.35 g, yield 61% | CC=1C=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)C)NC(C)=O | C17H16N4OS
